US07135582B2
Bis(3,5-di-tert-butyl-4-methoxyphenyl)phosphine oxide
Under argon atmosphere, a solution of magnesium (4.0 g, 0.95 equivalents) and a small amount of iodine in THF (50 mL) was stirred at room temperature for 1 hour. After 4-bromo-2,6-di-tert-butylanisole (52 g, 0.175 mol) synthesized in Reference Example 2 was added at 46° C. to 53° C. thereto, the mixture was stirred at 5° C. for 1 hour. Then, dimethyl phosphite (11.4 g, 0.52 equivalents) was added and the mixture was stirred at 5° C. for 1 hour. After water (50 mL) was added at 3° C. and toluene (50 mL) and 6M-HCl (20 mL) were then added, the mixture was stirred at room temperature for 30 minutes. The reaction solution was allowed to separate into layers. An organic layer was washed successively with water (20 mL), a 5% NaHCO3 aqueous solution (20 mL) and a 5% NaCl aqueous solution (20 mL), dried over anhydrous magnesium sulfate and then naturally filtered. The filtrate was concentrated under reduced pressure. The residue was recrystallized from heptane to obtain the title compound (11.6 g, pale yellowish white crystal). Yield 20.5%, mp. 166.1° C.

reactant | magnesium | 4.0 g, 0.95 equivalents | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-bromo-2,6-di-tert-butylanisole | 0.175 mol, 52 g | BrC1=CC(=C(C(=C1)C(C)(C)C)OC)C(C)(C)C | C15H23BrO
reactant | dimethyl phosphite | 11.4 g, 0.52 equivalents | P(OC)(OC)[O-]
reactant | HCl | 20 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
product | Bis(3,5-di-tert-butyl-4-methoxyphenyl)phosphine oxide | 11.6 g, Yield 20.5% | C(C)(C)(C)C=1C=C(C=C(C1OC)C(C)(C)C)P(C1=CC(=C(C(=C1)C(C)(C)C)OC)C(C)(C)C)=O | C30H47O3P
